US08735579B2
Tert-butyl 4-(4-{5-[5-tert-butyl-3-(cyclopropanecarbonyl-amino)-2-methoxy-phenylcarbamoyl]-2-methyl-phenoxy}-pyridin-2-ylmethyl)-piperidine-1-carboxylate
At ambient temperature 36 μl cyclopropanecarboxylic acid chloride are added to a solution of 160 mg tert-butyl 4-{4-[5-(3-amino-5-tert-butyl-2-methoxy-phenylcarbamoyl)-2-methyl-phenoxy]-pyridin-2-ylmethyl}-piperidine-1-carboxylate and 70 μl triethylamine in 2 ml dichloromethane. The solution is stirred overnight at ambient temperature and then mixed with water. The mixture is extracted with dichloromethane, and the combined extracts are washed with water and saturated aqueous saline solution, dried (MgSO4) and evaporated down. The residue is chromatographed on silica gel with cyclohexane/ethyl acetate (50:500:100) as eluant.

reactant | cyclopropanecarboxylic acid chloride | 36 μl | C1(CC1)C(=O)Cl | C4H5ClO
reactant | tert-butyl 4-{4-[5-(3-amino-5-tert-butyl-2-methoxy-phenylcarbamoyl)-2-methyl-phenoxy]-pyridin-2-ylmethyl}-piperidine-1-carboxylate | 160 mg | NC=1C(=C(C=C(C1)C(C)(C)C)NC(=O)C=1C=CC(=C(OC2=CC(=NC=C2)CC2CCN(CC2)C(=O)OC(C)(C)C)C1)C)OC | C35H46N4O5
reactant | triethylamine | 70 μl | C(C)N(CC)CC | C6H15N
reactant | water | O | H2O
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
product | Tert-butyl 4-(4-{5-[5-tert-butyl-3-(cyclopropanecarbonyl-amino)-2-methoxy-phenylcarbamoyl]-2-methyl-phenoxy}-pyridin-2-ylmethyl)-piperidine-1-carboxylate | C(C)(C)(C)C=1C=C(C(=C(C1)NC(=O)C=1C=CC(=C(OC2=CC(=NC=C2)CC2CCN(CC2)C(=O)OC(C)(C)C)C1)C)OC)NC(=O)C1CC1 | C39H50N4O6
